US08283354B2
At room temperature, N-ethyl-N-isopropylpropan-2-amine (155 mL, 0.88 mmol) was added to a solution of 2-(4-((R)-3-aminopyrrolidin-1-yl)-7-methylquinazolin-2-yl)-3-fluorophenol (150 mg, 0.40 mmol) in THF. The mixture was cooled in an ice bath, and (S)-tetrahydrofuran-3-yl chloroformate (63 mg, 0.42 mmol) was added slowly over a period of 10 minutes. After warming to room temperature, the reaction was quenched with water and extracted twice with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated. Purification via silica gel chromatography using 0-10% EtOAc in CH2Cl2/hexanes (1:1) gave (S)-tetrahydrofuran-3-yl(R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate (160 mg, 84%). LC/MS: m/z 453.3 (M+H)+ at 2.12 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSOd6) δ 8.18 (d, J=8.6 Hz, 1H), 7.70 (d, J=6.3 Hz, 1H), 7.58 (s, 1H), 7.29-7.38 (m, 2H), 6.76 (d, J=8.3 Hz, 1H), 6.67-6.72 (m, 1H), 5.14 (s, 1H), 4.23-4.24 (m, 1H), 3.99-4.13 (m, 3H), 3.64-3.85 (m, 5H), 2.50 (s, 3H), 2.07-2.22 (m, 2H), 2.00-2.03 (m, 1H), 1.85-1.90 (m, 1H).

reactant | N-ethyl-N-isopropylpropan-2-amine | 0.88 mmol, 155 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-(4-((R)-3-aminopyrrolidin-1-yl)-7-methylquinazolin-2-yl)-3-fluorophenol | 0.40 mmol, 150 mg | N[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1F)O | C19H19FN4O
reactant | (S)-tetrahydrofuran-3-yl chloroformate | 0.42 mmol, 63 mg | ClC(=O)O[C@@H]1COCC1 | C5H7ClO3
solvent | THF | C1CCOC1 | C4H8O
product | (S)-tetrahydrofuran-3-yl(R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate | 160 mg, 84% | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(O[C@@H]1COCC1)=O)C | C24H25FN4O4
